** GENERATED by `analog-db export-raw` — DO NOT EDIT.
** circuit=amp_013_qu2017_azc  class=amplifier  pdk=ihp-sg13g2  testbench=noise  corner=tt
** Self-contained deck: testbench + bound params + lowered DUT (.subckt amp_013_qu2017_azc).
** PDK corner libs resolve by BARE NAME on the image's ngspice sourcepath — run in a
** PDK-enabled env (the base image / api container), NOT a bare host:
**   docker run --rm -i spicexplorer-spice-base:local \
**     bash -lc 'd=$(mktemp -d) && cat > $d/c.spice && cd $d && ngspice -b c.spice' < raw/amp_013_qu2017_azc/ihp-sg13g2/noise.spice
*----------------------------------------------------------*
** params: 38 free + 0 frozen knobs (sizing.yaml) · 34 tied · 11 ratio-derived (abstract/params.yaml) · 3 testbench params
** AUTHORED TEMPLATE — amplifier/noise_biaswrap: input-referred noise for DUTs on the AnalogGym
** self-bias convention (ports vss vdd vinn vinp vout; NO ibias port). Self-bias companion of
** noise_biaswrap_ibias (M4 follow-up): a high-gain multistage OTA driven OPEN-LOOP at a fixed VCM
** rails the output, so a plain (unwrapped) noise bench takes its input-referred noise at a
** non-representative bias. Same 1 TH / 1 TF bias-wrap as ac_open_loop_biaswrap: Lfb DC-shorts
** vout back to the INVERTING input to set the high-gain operating point, while Cin AC-opens that
** loop and injects the noise input source Vac; input-referred noise is w.r.t. Vac (at the noise
** band Cin is a short + Lfb an open, so the small-signal input path is the inverting node).
**
** Assumes the AnalogGym canonical DUT port order (self-biased; NO ibias port):
**   .subckt <id> vss vdd vinn vinp vout
** Bindings: DUT VDD VCM CL FSTART FSTOP PPD PDK_INCLUDE.
** FIXED 2026-07-20: this template used to hardcode `X1 0 vdd opout_dc opin opout amp_013_qu2017_azc`,
** which silently assumed the AnalogGym port order [vss vdd vinn vinp vout] and MIS-WIRED any
** DUT declaring a different order (e.g. the amplifier-class [vdd vout vinp vinn vss] swaps
** vdd<->vss). It now uses XDUT vss vdd vinn vinp vout with canonical node names, exactly like the
** *_biaswrap_ibias sibling. For the AnalogGym DUTs this is a no-op: their vss port binds to
** node `vss`, which `Vss vss 0 dc 0` ties to ground just as the old direct-to-0 wiring did.
.lib cornerMOSlv.lib mos_tt
.temp 27

.param VDD=1.8
.param VCM=300m
.param CL=10p

Vdd  vdd 0 dc {VDD}
Vss  vss 0 dc 0
Vcm  vinp 0 dc {VCM}          ; common-mode bias on the non-inverting input
Vac  sigin 0 dc 0 ac 1        ; noise input source (input-referral reference)
Lfb  vout vinn 1T        ; 1 TH: DC short (bias), AC open
Cin  vinn sigin 1T        ; 1 TF: DC open, AC inject into the inverting node
CLoad vout 0 {CL}

XDUT vss vdd vinn vinp vout amp_013_qu2017_azc
.control
  set filetype=ascii
  noise v(vout) Vac dec 50 1 1MEG
  print inoise_total onoise_total
  write
  quit
.endc
.param CAPACITOR_0=8.1e-13
.param CAPACITOR_1=4.04e-13
.param CAPACITOR_2=3.1e-13
.param CURRENT_0_BIAS=1e-06
.param x_dut_xm3_l=1e-06
.param x_dut_xm5_m=4
.param x_dut_xm3_w=1e-06
.param x_dut_xm11_l=1e-06
.param x_dut_xm11_m=4
.param x_dut_xm11_w=1e-06
.param x_dut_xm12_l=1e-06
.param x_dut_xm12_m=4
.param x_dut_xm12_w=1e-06
.param x_dut_xm13_l=1e-06
.param x_dut_xm13_m=4
.param x_dut_xm13_w=1e-06
.param x_dut_xm16_l=1e-06
.param x_dut_xm16_m=4
.param x_dut_xm16_w=1e-06
.param x_dut_xm18_l=1e-06
.param x_dut_xm18_m=4
.param x_dut_xm18_w=1e-06
.param x_dut_xm19_l=1e-06
.param x_dut_xm19_m=4
.param x_dut_xm20_w=7e-06
.param x_dut_xm24_l=1e-06
.param x_dut_xm24_m=4
.param x_dut_xm24_w=1e-06
.param x_dut_xm6_l=1e-06
.param x_dut_xm6_m=4
.param x_dut_xm6_w=1e-06
.param x_dut_xm10_l=1e-06
.param x_dut_xm10_m=4
.param x_dut_xm10_w=1e-06
.param RESISTOR_0=35000
.param RESISTOR_1=35000
.param RESISTOR_2=350000
.param RESISTOR_3=40000
* ---- GENERATED parameter ties (abstract/params.yaml groups/ratios) ----
* Each tied symbol is defined exactly once, by its line below; rewrite that
* .param to untie just that symbol (untying = shadowing, plan D-3).
.param x_dut_xm7_w = {x_dut_xm6_w}
.param x_dut_xm7_l = {x_dut_xm6_l}
.param x_dut_xm8_w = {x_dut_xm3_w}
.param x_dut_xm5_w = {x_dut_xm3_w}
.param x_dut_xm4_w = {x_dut_xm3_w}
.param x_dut_xm2_w = {x_dut_xm3_w}
.param x_dut_xm1_w = {x_dut_xm3_w}
.param x_dut_xm0_w = {x_dut_xm3_w}
.param x_dut_xm8_l = {x_dut_xm3_l}
.param x_dut_xm5_l = {x_dut_xm3_l}
.param x_dut_xm4_l = {x_dut_xm3_l}
.param x_dut_xm2_l = {x_dut_xm3_l}
.param x_dut_xm1_l = {x_dut_xm3_l}
.param x_dut_xm0_l = {x_dut_xm3_l}
.param x_dut_xm9_w = {x_dut_xm10_w}
.param x_dut_xm9_l = {x_dut_xm10_l}
.param x_dut_xm9_m = {x_dut_xm10_m}
.param x_dut_xm22_w = {x_dut_xm24_w}
.param x_dut_xm23_w = {x_dut_xm24_w}
.param x_dut_xm22_l = {x_dut_xm24_l}
.param x_dut_xm23_l = {x_dut_xm24_l}
.param x_dut_xm17_w = {x_dut_xm16_w}
.param x_dut_xm14_w = {x_dut_xm16_w}
.param x_dut_xm15_w = {x_dut_xm16_w}
.param x_dut_xm17_l = {x_dut_xm16_l}
.param x_dut_xm14_l = {x_dut_xm16_l}
.param x_dut_xm15_l = {x_dut_xm16_l}
.param x_dut_xm17_m = {x_dut_xm16_m}
.param x_dut_xm14_m = {x_dut_xm16_m}
.param x_dut_xm15_m = {x_dut_xm16_m}
.param x_dut_xm20_l = {x_dut_xm19_l}
.param x_dut_xm21_l = {x_dut_xm19_l}
.param x_dut_xm20_m = {x_dut_xm19_m}
.param x_dut_xm21_m = {x_dut_xm19_m}
.param x_dut_xm7_m = {x_dut_xm6_m*2}
.param x_dut_xm3_m = {x_dut_xm5_m*6}
.param x_dut_xm8_m = {x_dut_xm5_m*2}
.param x_dut_xm4_m = {x_dut_xm5_m*1}
.param x_dut_xm2_m = {x_dut_xm5_m*2}
.param x_dut_xm1_m = {x_dut_xm5_m*1}
.param x_dut_xm0_m = {x_dut_xm5_m*1}
.param x_dut_xm22_m = {x_dut_xm24_m*4}
.param x_dut_xm23_m = {x_dut_xm24_m*3}
.param x_dut_xm21_w = {x_dut_xm20_w*1}
.param x_dut_xm19_w = {x_dut_xm20_w*2/7}
.subckt amp_013_qu2017_azc vss vdd vinn vinp vout
C0 net063 VOUT 'CAPACITOR_0'
C1 net051 vss 'CAPACITOR_1'
C2 net043 vss 'CAPACITOR_2'
I0 VB1 vss 'CURRENT_0_BIAS'
R0 net078 net077 'RESISTOR_0'
R1 net078 net082 'RESISTOR_1'
R2 net057 net051 'RESISTOR_2'
R3 net057 net043 'RESISTOR_3'
XM0 VB1 VB1 vdd vdd sg13_lv_pmos l=x_dut_xm0_l m=x_dut_xm0_m w=x_dut_xm0_w
XM1 VB4 VB1 vdd vdd sg13_lv_pmos l=x_dut_xm1_l m=x_dut_xm1_m w=x_dut_xm1_w
XM10 net063 VINP net019 net019 sg13_lv_pmos l=x_dut_xm10_l m=x_dut_xm10_m w=x_dut_xm10_w
XM11 net094 net050 vdd vdd sg13_lv_pmos l=x_dut_xm11_l m=x_dut_xm11_m w=x_dut_xm11_w
XM12 net055 net094 vss vss sg13_lv_nmos l=x_dut_xm12_l m=x_dut_xm12_m w=x_dut_xm12_w
XM13 VOUT net050 vdd vdd sg13_lv_pmos l=x_dut_xm13_l m=x_dut_xm13_m w=x_dut_xm13_w
XM14 VOUTN net077 DM_2 vss sg13_lv_nmos l=x_dut_xm14_l m=x_dut_xm14_m w=x_dut_xm14_w
XM15 net050 net082 net063 vss sg13_lv_nmos l=x_dut_xm15_l m=x_dut_xm15_m w=x_dut_xm15_w
XM16 net077 DM_2 vss vss sg13_lv_nmos l=x_dut_xm16_l m=x_dut_xm16_m w=x_dut_xm16_w
XM17 net082 net063 vss vss sg13_lv_nmos l=x_dut_xm17_l m=x_dut_xm17_m w=x_dut_xm17_w
XM18 VOUT net049 vss vss sg13_lv_nmos l=x_dut_xm18_l m=x_dut_xm18_m w=x_dut_xm18_w
XM19 VB4 VB4 vss vss sg13_lv_nmos l=x_dut_xm19_l m=x_dut_xm19_m w=x_dut_xm19_w
XM2 net019 VB1 vdd vdd sg13_lv_pmos l=x_dut_xm2_l m=x_dut_xm2_m w=x_dut_xm2_w
XM20 DM_2 VB4 vss vss sg13_lv_nmos l=x_dut_xm20_l m=x_dut_xm20_m w=x_dut_xm20_w
XM21 net063 VB4 vss vss sg13_lv_nmos l=x_dut_xm21_l m=x_dut_xm21_m w=x_dut_xm21_w
XM22 net094 net051 vss vss sg13_lv_nmos l=x_dut_xm22_l m=x_dut_xm22_m w=x_dut_xm22_w
XM23 net057 net043 vss vss sg13_lv_nmos l=x_dut_xm23_l m=x_dut_xm23_m w=x_dut_xm23_w
XM24 net049 net057 vss vss sg13_lv_nmos l=x_dut_xm24_l m=x_dut_xm24_m w=x_dut_xm24_w
XM3 net078 VB1 vdd vdd sg13_lv_pmos l=x_dut_xm3_l m=x_dut_xm3_m w=x_dut_xm3_w
XM4 VOUTN VOUTN vdd vdd sg13_lv_pmos l=x_dut_xm4_l m=x_dut_xm4_m w=x_dut_xm4_w
XM5 net050 VOUTN vdd vdd sg13_lv_pmos l=x_dut_xm5_l m=x_dut_xm5_m w=x_dut_xm5_w
XM6 net055 net055 vdd vdd sg13_lv_pmos l=x_dut_xm6_l m=x_dut_xm6_m w=x_dut_xm6_w
XM7 net057 net055 vdd vdd sg13_lv_pmos l=x_dut_xm7_l m=x_dut_xm7_m w=x_dut_xm7_w
XM8 net049 VB1 vdd vdd sg13_lv_pmos l=x_dut_xm8_l m=x_dut_xm8_m w=x_dut_xm8_w
XM9 DM_2 VINN net019 net019 sg13_lv_pmos l=x_dut_xm9_l m=x_dut_xm9_m w=x_dut_xm9_w
.ends
.end
